USH0002260H1
Paclitaxel Derivative/Polymer Coating—Echogenic Coating
A coated stent from Example 9 is dipped into a DESMODUR solution (50:50 mixture of dimethylsulfoxide and tetrahydrofuran). The device is then removed and the coating is then partially dried at room temperature for 3 to 5 minutes. The device is then immersed in a beaker of water (room temperature) for 3-5 minutes to cause the polymerization reaction to occur rapidly. An echogenic coating is formed. In addition to 9-deoxotaxol, the following are exemplary compounds that may be used to coat the device: 7-deoxy-9-deoxotaxol and 10-desacetoxy-7-deoxy-9-deoxotaxol.

reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 9-deoxotaxol | CC1=C2[C@H](C[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)NC(=O)C6=CC=CC=C6)O)O)OC(=O)C7=CC=CC=C7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H53NO13
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Paclitaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
